US05304644
(b) 2-(2-chlorophenoxy)benzeneamine
A solution of 2-chloro-(2-nitrophenoxy)benzene (5.00 g) in tetrahydrofuran (100 mL) was shaken in a Parr Hydrogenator over Raney nickel at 5 psi hydrogen at room temperature for 4 hours. The catalyst was filtered from the reaction, and the solution was evaporated under vacuum to a yellowish oil which crystallized on standing. The solid was crushed, suspended in hexane and filtered to yield the title compound as a light orange solid. Mp: 44°-45° C.

reactant | 2-chloro-(2-nitrophenoxy)benzene | 5.00 g | ClC1=C(C=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 2-(2-chlorophenoxy)benzeneamine | ClC1=C(OC2=C(C=CC=C2)N)C=CC=C1 | C12H10ClNO
